US07943625B2
(a) (2-Ethoxy-propyl)-thiourea
2-Ethoxy-propylamine (1.50 g, 14.5 mmol) and benzoylisothiocyanate (2.61 g, 16.0 mmol) in chloroform (50 mL) were heated at 75° C. for 1 h. The solvent was removed under reduced pressure and methanol (15 mL) and water (30 mL) were added. Potassium carbonate (2.0 g, 14.5 mmol) was added and the mixture was heated at 75° C. for 2 h. After cooling to room temperature, the mixture was neutralized with 2M sulphuric acid and the solvent was removed under reduced pressure. The crude product was dissolved in methanol and insoluble material was removed by filtration. The solvent was distilled off and the resulting solid was washed with dichloromethane and dissolved in ethanol. Insoluble material was removed by filtration and the solvent was removed under reduced pressure. This gave the title compound as a white solid (1.6 g, 59% yield).

reactant | 2-Ethoxy-propylamine | 14.5 mmol, 1.50 g | C(C)OC(CN)C | C5H13NO
reactant | benzoylisothiocyanate | 16.0 mmol, 2.61 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | Potassium carbonate | 14.5 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | sulphuric acid | 2M | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | (2-Ethoxy-propyl)-thiourea | 1.6 g, 59% yield | C(C)OC(CNC(=S)N)C | C6H14N2OS
